US07179830B2
a) N-(3-Amino-4-thienyl)-N′-(2-trifluoromethylphenyl)thiourea
0.8 g of 3,4-diaminothiophene dihydrobromide was added to a mixture of 0.74 g of N-ethyl-N,N-diisopropylamine in 40 ml of anhydrous THF, and the mixture was stirred at room temperature for 10 minutes, and then admixed with 0.58 g of 2-trifluoromethylphenyl isothiocyanate. The mixture was stirred at room temperature for 3 hours and at 40° C. for a further 10 minutes, and left to stand at room temperature overnight. After the solvent had been distilled off, the residue was admixed with water and extracted with ethyl acetate, and the insoluble fraction was filtered off. The organic phase was washed with water and dried over sodium sulfate, the solvent was distilled off and the residue was purified by column chromatography on silica gel using a mixture of 1 part by volume of toluene and 1 part by volume of ethyl acetate.

reactant | 3,4-diaminothiophene dihydrobromide | 0.8 g | Br.Br.NC1=CSC=C1N
reactant | N-ethyl-N,N-diisopropylamine | 0.74 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-trifluoromethylphenyl isothiocyanate | 0.58 g | FC(C1=C(C=CC=C1)N=C=S)(F)F | C8H4F3NS
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-(3-Amino-4-thienyl)-N′-(2-trifluoromethylphenyl)thiourea | NC1=CSC=C1NC(=S)NC1=C(C=CC=C1)C(F)(F)F | C12H10F3N3S2
